US06673803B2
Using a method analogous to that in Example 47, 4-(4-bromo-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline (146 mg, 0. mmol) in methylene chloride (5 ml) was treated with 1-(3-hydroxypropyl)-2-pyrrolidinone (86 mg, 0.6 mmol), triphenylphosphine (314 mg, 1.2 mmol) and diethyl azodicarboxylate (209 mg, 1.2 mmol) and was purified and isolated to give 4-(4-bromo-2-fluoroanilino)-6-methoxy-7-(3-(2-oxopyrrolidin-1-yl)propoxy)quinazoline hydrochloride (140 mg, 67%).

reactant | 4-(4-bromo-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline | 146 mg | BrC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)O)C=C1)F | C15H11BrFN3O2
reactant | 1-(3-hydroxypropyl)-2-pyrrolidinone | 0.6 mmol, 86 mg | OCCCN1C(CCC1)=O | C7H13NO2
reactant | triphenylphosphine | 1.2 mmol, 314 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 1.2 mmol, 209 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 4-(4-bromo-2-fluoroanilino)-6-methoxy-7-(3-(2-oxopyrrolidin-1-yl)propoxy)quinazoline hydrochloride | 140 mg, 67% | Cl.BrC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCCCN2C(CCC2)=O)C=C1)F | InChI=1S/C22H22BrFN4O3.ClH/c1-30-19-11-15-18(12-20(19)31-9-3-8-28-7-2-4-21(28)29)25-13-26-22(15)27-17-6-5-14(23)10-16(17)24;/h5-6,10-13H,2-4,7-9H2,1H3,(H,25,26,27);1H
